US06713474B2
To a solution of 92% pure N1-{4-[4-amino-7-(4-oxocyclohexyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-2-methoxyphenyl}-3-phenylpropanamide (1.0 g, 2.1 mmol), N-methylpiperazine (0.63 g, 6.3 mmol), acetic acid (0.38 g, 6.3 mmol) in dichloroethane (100 mL) was added sodium triacetoxyborohydride (0.67 g, 3.15 mmol) portionwise under nitrogen. The solution was stirred for 20 hr and then quenched by the addition of saturated aqueous sodium bicarbonate solution (50 mL). The aqueous layer was extracted with dichloromethane (3×50 mL), dried (sodium sulphate), filtered and evaporated to leave a sludge which was purified by flash silica gel column chromatography using dichloromethane to 50% MeOH/dichloromethane in 10% increments. F84-96 were combined and evaporated to leave cis-N1-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-methoxyphenyl)-3-phenylpropanamide (0.26 g) as a cream foamy glass. HPLC: (5 to 95% CH3CN in 0.1 N aqueous ammonium acetate over 20 min.) tr=12.65 min, 95.2%.1H NMR (d6 DMSO, 400 MHz): 9.17(1H, s), 8.14(1H, s), 8.05(1H, d), 7.28(5H, m), 7.18(1H, m), 7.10(1H, s), 6.99(1H, d), 6.11(2H, bs), 4.67(1H, m), 3.88(3H, s), 2.90(2H, m), 2.73(2H, m), 2.50(7H, m), 2.28(3H, s), 2.06(3H, m), 1.71(2H, m), 1.55(2H, m). F121-138 were combined and evaporated to leave trans-N1-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-methoxyphenyl)-3-phenylpropanamide (0.11 g) as a white solid. HPLC: (5 to 95% CH3CN in 0.1 N aqueous ammonium acetate over 20 min.) tr=12.61 min, 96.2%. 1H NMR (d6 DMSO, 400 MHz): 9.16(1H, s), 8.13 (1H, s), 8.04(1H, d), 7.44(1H, s), 7.29 (4H, m), 7.18(1H, m), 7.09(1H, s), 6.97 (1H, d), 6.11(2H bs), 4.53(1H, m), 3.88 (3H, s), 2.93(2H, m), 2.71(2H, m), 2.50 (4H, m), 2.30(5H, m), 2.14(3H, s), 1.89(6H, m), 1.46(2H, m).

reactant | N1-{4-[4-amino-7-(4-oxocyclohexyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-2-methoxyphenyl}-3-phenylpropanamide | 2.1 mmol, 1.0 g | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(CCC2=CC=CC=C2)=O)OC)C2CCC(CC2)=O | C28H29N5O3
reactant | N-methylpiperazine | 6.3 mmol, 0.63 g | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 6.3 mmol, 0.38 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.15 mmol, 0.67 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | cis-N1-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-methoxyphenyl)-3-phenylpropanamide | 0.26 g | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(CCC2=CC=CC=C2)=O)OC)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C33H41N7O2
